US07705004B2
4-(4-(1H-indazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide
To a solution of 4-(4-(1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide (50 mg, 0.093 mmol) in dioxane (3 mL), aq. 1N KOH (1.50 mL, 1.50 mmol) was added. The mixture was heated at 70° C. for 4 h. before it was concentrated in vacuo. The residue was then acidified with acetic acid (HOAc) (2.0 mL) and purified by HPLC to give the title compound (8 mg). MS 385.2 (M+H) (Compound 12-1).

reactant | 4-(4-(1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide | 0.093 mmol, 50 mg | N1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C(=O)N)C=C1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C27H22N8O3S
reactant | KOH | 1.50 mmol, 1N, 1.50 mL | [OH-].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 4-(4-(1H-indazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide | 8 mg | N1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C(=O)N)C=C1)NC=C2 | C20H16N8O
